US09304393B2
Into a glass flask were charged 3.00 g (8.90 mmol) of 4-(2-bromo-1,1,2,2-tetrafluoroethyl)cyclopentane-1,3-dicarboxylic acid, 8.83 g (89.0 mmol) of cyclohexylamine and 50 g of toluene, and the mixture was refluxed using a Dean and Stark apparatus for 10 hrs. Thereafter, the solvent was distilled off, and 100 mL of dichloromethane was added thereto. The organic layer washed with 50 mL of 1 M aqueous hydrochloric acid four times, with 50 mL of an aqueous sodium bicarbonate solution three times, and then with 50 mL of saturated brine once. After washing, the solvent of the organic layer was distilled off, and purification was carried out on column chromatography to obtain 3.38 g of 4-(2-bromo-1,1,2,2-tetrafluoroethyl)-N1,N3-dicyclohexylcyclopentane-1,3-dicarboxamide (precursor compound (a-8)) represented by the following formula (a-8) (yield: 76%).

reactant | 4-(2-bromo-1,1,2,2-tetrafluoroethyl)cyclopentane-1,3-dicarboxylic acid | 8.90 mmol, 3.00 g | BrC(C(F)(F)C1C(CC(C1)C(=O)O)C(=O)O)(F)F | C9H9BrF4O4
reactant | cyclohexylamine | 89.0 mmol, 8.83 g | C1(CCCCC1)N | C6H13N
solvent | toluene | 50 g | C1(=CC=CC=C1)C | C7H8
product | 4-(2-bromo-1,1,2,2-tetrafluoroethyl)-N1,N3-dicyclohexylcyclopentane-1,3-dicarboxamide | 3.38 g, yield: 76% | BrC(C(F)(F)C1C(CC(C1)C(=O)NC1CCCCC1)C(=O)NC1CCCCC1)(F)F | C21H31BrF4N2O2
